US08293909B2
Step 3: Preparation of 3-(2-(4-fluorophenyl)-3-formylfuro[2,3-b]pyridin-5-yl)-N-(2-phenylpropan-2-yl)benzamide.
AIBN (1.0 mg, 6.1 μmol) was added to a stirring solution of NBS (4.6 mg, 0.026 mmol) and 3-(2-(4-fluorophenyl)-3-methylfuro[2,3-b]pyridin-5-yl)-N-(2-phenylpropan-2-yl)benzamide (11 mg, 0.024 mmol) in CCl4 (1 mL). The mixture was heated to 76° C. and allowed to stir for 2 hours. The reaction was concentrated and diluted with DMSO (1 mL) and treated with NMO (3.4 mg, 0.028 mmol) and subjected to microwave irradiation (150° C.) for 5 min. The reaction was purified by preparative reverse phase HPLC on a C18 column using a suitably buffered H2O/CH3CN gradient, and concentrated to give to give the expected product 3-(2-(4-fluorophenyl)-3-formylfuro[2,3-b]pyridin-5-yl)-N-(2-phenylpropan-2-yl)benzamide (7.5 mg, 0.016 mmol, 66% yield) consistent by LCMS and NMR. 1H NMR (500 MHz, DMSO-d6) δ ppm 10.31 (1H, s), 8.84 (1H, s), 8.79 (1H, s), 8.65 (1H, s), 8.19-8.26 (3H, m), 7.89-7.97 (2H, m), 7.59-7.67 (1H, m), 7.54 (2H, t, J=8.55 Hz), 7.42 (2H, d, J=7.93 Hz), 7.30 (2H, t, J=7.63 Hz), 7.13-7.23 (1H, m), 1.71 (6H, s). LC-MS retention time: 1.75 min; m/z (MH+): 479. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters XBridge 5 u C18 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where solvent A was 5% acetonitrile/95% H2O/10 mM ammonium acetate and solvent B was 5% H2O/95% acetonitrile/10 mM ammonium acetate. MS data was determined using a Micromass Platform for LC in electrospray mode.

reactant | AIBN | 6.1 μmol, 1.0 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | NBS | 0.026 mmol, 4.6 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | 3-(2-(4-fluorophenyl)-3-methylfuro[2,3-b]pyridin-5-yl)-N-(2-phenylpropan-2-yl)benzamide | 0.024 mmol, 11 mg | FC1=CC=C(C=C1)C1=C(C=2C(=NC=C(C2)C=2C=C(C(=O)NC(C)(C)C3=CC=CC=C3)C=CC2)O1)C | C30H25FN2O2
reactant | NMO | 0.028 mmol, 3.4 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | CCl4 | 1 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-(2-(4-fluorophenyl)-3-formylfuro[2,3-b]pyridin-5-yl)-N-(2-phenylpropan-2-yl)benzamide | 0.016 mmol, 7.5 mg, 66% yield | FC1=CC=C(C=C1)C1=C(C=2C(=NC=C(C2)C=2C=C(C(=O)NC(C)(C)C3=CC=CC=C3)C=CC2)O1)C=O | C30H23FN2O3
